US08871756B2
tert-Butyl 4-{[2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl](hydroxy)methyl}piperidine-1-carboxylate
To a solution of tert-butyl 4-{[2-(2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl](hydroxy)methyl}piperidine-1-carboxylate (519 mg, 1.0 mmol) in dichloromethane (10 mL) was added 3-chloroperbenzoic acid (537 mg, 70% purity, 2.2 mmol). After being stirred at room temperature for 4 hours, to the above mixture was added a saturated aqueous solution of sodium thiosulfate (3 mL). The separated organic layer was washed with a saturated aqueous solution of sodium carbonate (5 mL) and brine (5 mL), dried over sodium sulfate and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel (eluting with 20-50% ethyl acetate in petroleum ether) to afford 300 mg of the desired product. MS (ESI+) [(M+H)+] 552.

reactant | tert-butyl 4-{[2-(2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl](hydroxy)methyl}piperidine-1-carboxylate | 1.0 mmol, 519 mg | S1CCN(CC2=C1C=CC=C2)C2=NC1=CC=C(C=C1C(=C2)C(C2CCN(CC2)C(=O)OC(C)(C)C)O)C | C30H37N3O3S
reactant | 3-chloroperbenzoic acid | 2.2 mmol, 537 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium thiosulfate | 3 mL | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | tert-Butyl 4-{[2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl](hydroxy)methyl}piperidine-1-carboxylate | 300 mg | O=S1(CCN(CC2=C1C=CC=C2)C2=NC1=CC=C(C=C1C(=C2)C(C2CCN(CC2)C(=O)OC(C)(C)C)O)C)=O | C30H37N3O5S
